US07208518B2
To a solution of 3,5-diisopropylsalicylic acid (Aldrich) (10 mmole, 2.2 g) and dichloromethane (20 mL), oxalyl-chloride (Merck) (11.0 mmole, 1.03 mL) and DMF (Aldrich) (80 μL) were added. The reaction mixture was refluxed for 1 hour, whereupon the solvent and the excess of oxalyl-chloride were removed under reduced pressure. The obtained oily product was dissolved in dichloromethane (50 mL) and ammonia gas was introduced into reaction mixture under cooling. The solution was diluted with water and, after drying with sodium sulfate, the organic layer was evaporated under reduced pressure. A yellow residue was recrysatallized from n-hexane, whereat there were obtained 876 mg (40%) of 3,5-diisopropyl salicylamide in the form of a white crystalline product:

reactant | 3,5-diisopropylsalicylic acid | 10 mmole, 2.2 g | C(C)(C)C1=C(C(C(=O)O)=CC(=C1)C(C)C)O | C13H18O3
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | oxalyl-chloride | 11.0 mmole, 1.03 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 80 μL | CN(C)C=O | C3H7NO
product | 3,5-diisopropyl salicylamide | 876 mg, 40% | C(C)(C)C1=C(C(C(=O)N)=CC(=C1)C(C)C)O | C13H19NO2
